US08975443B2
4-Methoxyphenylboronic acid pinacol ester
In a nitrogen-atmosphere glovebox, a microwave vial equipped with a magnetic stir bar was charged bis(pinacolato)diboron (107 mg, 0.421 mmol, 1.2 equivalents), potassium acetate (68.8 mg, 0.701 mmol, 2 equivalents), tris(dibenzylideneacetone)dipalladium(0) (Pd2dba3) (3.2 mg, 0.00351 mmol, 0.01 equivalents), and 8-(2′,6′-diisopropoxybiphenyl-2-yl)-7,7,9,9-tetramethyl-1,4-dioxa-8-phosphaspiro[4.5]decane (4.1 mg, 0.00842 mmol, 0.024 equivalents). Then dioxane (0.7 mL) was syringed into the vial, followed by 4-chloroanisole (43 mL, 0.351 mmol, 1 equivalent). The vial was sealed with a crimp top and placed in a heating block at 110° C. After 20 hours, the reaction vial was removed from the heating block, cooled to room temperature and brought out of the glovebox. The reaction solution was filtered into a tared 125-mL Erlenmeyer flask. The vial was rinsed with dioxane (Six mL), followed by washing of the filter cake with dioxane (5 mL). A wt % analysis was performed on the filtered solution to obtain an assay yield of 73%.

reactant | bis(pinacolato)diboron | 0.421 mmol, 107 mg, 1.2 equivalents | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.701 mmol, 68.8 mg, 2 equivalents | C(C)(=O)[O-].[K+]
reactant | 8-(2′,6′-diisopropoxybiphenyl-2-yl)-7,7,9,9-tetramethyl-1,4-dioxa-8-phosphaspiro[4.5]decane | 0.00842 mmol, 4.1 mg, 0.024 equivalents | C(C)(C)OC1=C(C(=CC=C1)OC(C)C)C1=C(C=CC=C1)P1C(CC2(OCCO2)CC1(C)C)(C)C | C29H41O4P
reactant | 4-chloroanisole | 0.351 mmol, 43 mL, 1 equivalent | ClC1=CC=C(C=C1)OC | C7H7ClO
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.00351 mmol, 3.2 mg, 0.01 equivalents | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 0.7 mL | O1CCOCC1 | C4H8O2
product | 4-Methoxyphenylboronic acid pinacol ester | yield of 73% | COC1=CC=C(C=C1)B1OC(C)(C)C(C)(C)O1 | C13H19BO3
